US07125903B1
Preparation of 3-(1-methyl-1H-thieno[3,2-c]pyrazol-3-yl)phenol: (Compound 9, Scheme I)
Treat a stirred solution of 3-(3-methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole (7.5 g, 0.031 mol.) and dichloromethane (51 mL) dropwise with a solution of boron tribromide (41 mL, 0.041 mol., 1.0M in dichloromethane) under nitrogen. After 2.5 hours, quench with hydrochloric acid (50 mL, 1N) and ether/ethyl acetate (50 mL), and stir until both phases are clear. Wash the organic phase with water, dry (MgSO4), filter and evaporate to give an oil. Purify the oil by HPLC (silica gel, elution with 10% methanol in dichloromethane) to give a light tan solid. Purify the solid further by column chromatography (silica gel, elution with 5% methanol in dichloromethane) to give a white solid (3.5 g, 49% yield).

reactant | 3-(3-methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | 0.031 mol, 7.5 g | COC=1C=C(C=CC1)C=1C2=C(N(N1)C)C=CS2 | C13H12N2OS
reactant | boron tribromide | 0.041 mol, 1.0M, 41 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
product | 3-(1-methyl-1H-thieno[3,2-c]pyrazol-3-yl)phenol | 3.5 g, 49% yield | CN1N=C(C2=C1C=CS2)C=2C=C(C=CC2)O | C12H10N2OS
